US08859777B2
Step 1: Preparation of Methyl 3-[4-(3-Benzyloxyphenyl)-4-fluoro-3-methylpiperidin-1-yl]propionate.
This compound was prepared from 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride and methyl acrylate as described in Step 1 of Example 4 in 81% yield.

reactant | 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CNCC1)C)F
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | Methyl 3-[4-(3-Benzyloxyphenyl)-4-fluoro-3-methylpiperidin-1-yl]propionate | 81% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CN(CC1)CCC(=O)OC)C)F | C23H28FNO3
